US04962103
(2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-t-butyldimethylsilyloxymethyl-4-acetylthiopyrrolidine (0.85 g) was dissolved in methanol (8.5 ml), and 0.85 ml of 6N hydrochloric acid was added thereto. The resulting mixture was stirred at room temperature for 2.5 hours, diluted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate and distilled to remove the solvent. Recrystallization of the residue from diethyl ether gave (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-acetylthiopyrrolidine.

reactant | (2S,4S)-1-(p-Nitrobenzyloxycarbonyl)-2-t-butyldimethylsilyloxymethyl-4-acetylthiopyrrolidine | 0.85 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CO[Si](C)(C)C(C)(C)C)C=C1 | C21H32N2O6SSi
reactant | hydrochloric acid | 6N, 0.85 ml | Cl | ClH
solvent | methanol | 8.5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-1-(p-nitrobenzyloxycarbonyl)-2-hydroxymethyl-4-acetylthiopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CO)C=C1 | C15H18N2O6S
